US07855292B2
E. (S)-2-[2-(Benzo[1,2,5]thiadiazole-4-sulfonylamino)-4-bromo-benzoylamino]-3-(3,4-dichloro-phenyl)-propionic acid methyl ester
The title compound (61 mg, 95%) was prepared from 2-(benzo[1,2,5]thiadiazole-4-sulfonylamino)-4-bromobenzoic acid and (S)-3,4-dichlorophenylalanine methyl ester hydrochloride as in Example 1, Part C. 1H NMR (400 MHz, CDCl3): 11.43 (br s, 1H), 8.38 (dd, J=7.0, 1.0, 1H), 8.23 (dd, J=8.8, 1.0, 1H), 7.90 (t, J=1.0, 1H), 7.73 (dd, J=8.8, 7.0, 1H), 7.35 (d, J=8.2, 1H), 7.14 (d, J=2.0, 1H), 7.11 (d, J=1.0, 2H), 6.89 (dd, J=8.2, 2.1, 1H), 6.48 (br d, J=7.1, 1H), 5.00-4.92 (m, 1H), 3.82 (s, 3H), 3.22 (dd, J=14.0, 5.8, 1H), 3.16 (dd, J=14.0, 5.1, 1H).

reactant | 2-(benzo[1,2,5]thiadiazole-4-sulfonylamino)-4-bromobenzoic acid | N1=C2C(=NS1)C(=CC=C2)S(=O)(=O)NC2=C(C(=O)O)C=CC(=C2)Br | C13H8BrN3O4S2
reactant | (S)-3,4-dichlorophenylalanine methyl ester hydrochloride | Cl.COC([C@@H](N)CC1=CC(=C(C=C1)Cl)Cl)=O
product | (S)-2-[2-(Benzo[1,2,5]thiadiazole-4-sulfonylamino)-4-bromo-benzoylamino]-3-(3,4-dichloro-phenyl)-propionic acid methyl ester | 61 mg, 95% | COC([C@H](CC1=CC(=C(C=C1)Cl)Cl)NC(C1=C(C=C(C=C1)Br)NS(=O)(=O)C1=CC=CC=2C1=NSN2)=O)=O | C23H17BrCl2N4O5S2
